*ISL28190 Macromodel 每 also used for the following related devices
*ISL28290 (dual channel versions)
*
*Revision History: Rev.4,Nov. 2009 by Jian Wang
*Rev.5, March 2010, Added/Correcting Input/Output headroom limits (by Jian Wang)
*Rev.6, January 2015, Updated output voltage limit Vih and Vil (by Matt Fortin)
*Intended use: This Pspice Macromodel is intended to give typical DC and AC 
*performance characteristics under a wide range of external circuit configurations 
*using compatible simulation platforms 每 such as iSim PE. 
*
*Device performance features supported by this model:
*Typical, room temp., nominal power supply voltages used to produce the following characteristics
*Open and closed loop I/O impedances
*Open loop gain and phase
*Closed loop bandwidth and frequency response peaking under different external conditions
*Loading effects on closed loop frequency response
*Input noise terms including 1/f effects
*Slew rate
*Input and Output Headroom limits to I/O voltage swing
*Supply current at nominal specified supply voltages
*Nominal input DC error terms (1/3 of specified data sheet test or specified limits 
*每 intended to give 1考 error term on one polarity)
*Load current reflected into the power supply current
*
*Device performance features NOT supported by this model:
*Harmonic distortion effects
*Composite video differential gain and phase errors
*Output current limiting (if any)
*Disable operation (if any)
*Thermal effects and/or over temperature parameter variation
*Limited performance variation vs. supply voltage is modeled
*Part to part performance variation due to normal process parameter spread
*Any performance difference arising from different packaging
*
*LICENSE STATEMENT
*The information in this SPICE model is protected under
*the United States copyright laws. Intersil Corporation hereby
*grants users of this macro-model hereto referred to
*as "Licensee", a nonexclusive, nontransferable license to use
*this model as long as the Licensee abides by the terms of this agreement.
*Before using this macro-model, the Licensee should read this license.
*If this Licensee does not accept these terms,
*permission to use the model is not granted.
*The Licensee may not sell, loan, rent, or license the macro-model,
*in whole, in part, or in modified form, to anyone
*outside the Licensee's company. The Licensee may
*modify the macro-model to suit his/her specific applications,
*and the Licensee may make copies of this macro-model for use within 
*their company only.
*This macro-model is provided "AS IS, WHERE IS, AND WITH NO
*WARRANTY OF ANY KIND EITHER EXPRESSED OR IMPLIED, INCLUDING BUT
*NOT LIMITED TO ANY IMPLIED WARRANTIES OF MERCHANTABILITY AND FITNESS
*FOR A PARTICULAR PURPOSE."
*In no event will Intersil be liable for special, collateral,
*incidental, or consequential damages in connection with or arising
*out of the use of this macro-model. Intersil reserves the right to 
*make changes to the product and the macro-model without prior notice.
*
* connections:        +input
*                       |  -input
*                       |    | +Vsupply
*                       |    |    | -Vsupply
*                       |    |    |    |  output
*                       |    |    |    |    |
.subckt ISL28190     Vin+   Vin-  V+  V-   Vout



*Input Stage
C_Cin1       Vin+ 0 2.2p
C_Cin2       Vin- 0 2.2p 
C_Cdiff        Vin+ Vin- 2p
V_Vos         2 Vin- 240uVdc
R_R1         4 3  10 
R_R2         3 5  10 
M_M2         7 2 5 5 pmosisil  
+ L=20u  
+ W=400u     
M_M3         6 1 4 4 pmosisil  
+ L=20u  
+ W=400u
I_I1         V+ V- DC 1mA 
I_I2         V+ 3 DC 5mA 
R_R3         V- 6  100 
R_R4         V- 7  100  
I_Ib1        0  Vin+ DC 9.98uAdc
I_Ib2        0  Vin- DC 10.02uAdc  

*Gain Stage, SR Limiting
G_G1         V+ VV1 7 6 0.004
G_G2         V- VV1 7 6 0.004
V_V3         9 VV1 0.8Vdc
V_V4         VV1 8 0.8Vdc
D_D1         9 V+ DX 
D_D2         V- 8 DX 
R_R5         VV1 V+  1k  
R_R6         V- VV1  1k  

*First Pole, SR Limiting
G_G3         V+ VV2 VV1 10 0.01
G_G4         V- VV2 VV1 10 0.01
C_C1         VV2 V+  231p  
C_C2         V- VV2  231p  
V_V5         11 VV2 0.7Vdc
V_V6         VV2 12 0.7Vdc
D_D3         11 V+ DX 
D_D4         V- 12 DX 
R_R7         VV2 V+  4Meg 
R_R8         V- VV2  4Meg
R_R11        11 0 1G
R_R12        12 0 1G
E_E3         10 V- V+ V- 0.5

*Second Pole Stage
G_G5         V+ VV3 VV2 10 0.00001
G_G6         V- VV3 VV2 10 0.00001
R_R9         VV3 V+  100k 
R_R10         V- VV3  100k 
C_C3         VV3 V+  0.008p 
C_C4         V- VV3  0.008p

*third Pole Stage
G_G7         V+ VV4 VV3 10 0.00001
G_G8         V- VV4 VV3 10 0.00001
R_R15         VV4 V+  100k 
R_R16         V- VV4  100k 
C_C5         VV4 V+  0.004p 
C_C6         V- VV4  0.004p

*Output Stage
G_G9         13 V- VOUT VV4 0.0001
G_G10         14 V- VV4 VOUT 0.0001
G_G11         V+ VOUT V+ VV4 -0.02
G_G12         VOUT V- VV4 V- -0.02
D_D5         V+ 13 DX 
D_D6         V+ 14 DX  
D_D7         V- 13 DY 
D_D8         V- 14 DY  
R_R13         VOUT V+  50 
R_R14         V- VOUT  50 
 
*Voltage Noise
D_DN1         102 101 Iden 
D_DN2         104 103 Iden
R_R21         0 101  1 
R_R22         0 103  1
E_EN          1 Vin+ 101 103 2 
V_V15         102 0 1Vdc
V_V16         104 0 1Vdc

*Current Noise
G_Gn2         VIN+ 0 NI2 0 1
G_Gn1         VIN- 0 NI1 0 1
R_R23         NI2 0 0.00053
R_R24         NI2 0 0.00053
R_R25         NI1 0 0.00053
R_R26         NI1 0 0.00053

.model pmosisil pmos (kp=20e-3 vto=10m)
.model Iden d(kf=160e-17 af=1)
.MODEL DY D(IS=1E-20 BV=50 Rs=1)
.MODEL DX D(IS=1E-15 Rs=1)
.ends ISL28190
